16
QN3 0 1 2 NPN 0.99 0.5 1e-9 43.429445e-3 1e-9 43.429445e-3 100 5e-12 100e-18
QN4 0 3 4 NPN 0.99 0.5 1e-9 43.429445e-3 1e-9 43.429445e-3 100 5e-12 100e-18
QN1 5 6 0 NPN 0.99 0.5 1e-9 43.429445e-3 1e-9 43.429445e-3 100 5e-12 100e-18
QN2 7 8 0 NPN 0.99 0.5 1e-9 43.429445e-3 1e-9 43.429445e-3 100 5e-12 100e-18
QP3 0 9 10 PNP 0.99 0.5 1e-9 43.429445e-3 1e-9 43.429445e-3 100 5e-12 100e-18
QP4 0 11 12 PNP 0.99 0.5 1e-9 43.429445e-3 1e-9 43.429445e-3 100 5e-12 100e-18
QP1 13 14 0 PNP 0.99 0.5 1e-9 43.429445e-3 1e-9 43.429445e-3 100 5e-12 100e-18
QP2 15 16 0 PNP 0.99 0.5 1e-9 43.429445e-3 1e-9 43.429445e-3 100 5e-12 100e-18
I0000 0 0 1 0 1E-3
I0006 0 6 1 0 1E-3
I0008 0 8 1 0 1E-3
I0001 0 1 1 0 1E-3
I0003 0 3 1 0 1E-3
I1400 14 0 1 0 1E-3
I1600 16 0 1 0 1E-3
I0900 9 0 1 0 1E-3
I1100 11 0 1 0 1E-3
V0500 5 0 0 0 10
V0700 7 0 0 0 0.1
V0200 2 0 0 0 10
V0400 4 0 0 0 0.1
V0013 0 13 0 0 10
V0015 0 15 0 0 0.1
V0010 0 10 0 0 10
V0012 0 12 0 0 0.1
.AC DEC 10 1000 100000000
